US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.5 g) and [(4-dimethylaminophenyl)methyl](6-isopropylpyridin-3-yl)amine (0.48 g) as starting materials, 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.39 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.5 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(4-dimethylaminophenyl)methyl](6-isopropylpyridin-3-yl)amine | 0.48 g | CN(C1=CC=C(C=C1)CNC=1C=NC(=CC1)C(C)C)C | C17H23N3
product | 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.39 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC1=CC=C(C=C1)N(C)C | C35H39N3O2
